US06492401B1
A solution of 5-methoxycarbonyl-2-phenyl-2H-1,2,3-triazole-4-carboxylic acid (0.203 g, 0.82 mmol) in dry DMF (3 mL) at 23° C. was treated with carbonyldiimidazole (0.146 g, 0.90 mmol). The resulting mixture was stirred for 1.5 h at 23° C., cooled to 0° C. and treated with dimethylamine (2.0 M in THF, 2.05 mL, 4.10 mmol). The resulting mixture was allowed to warm to 23° C. over 16 h and concentrated in vacuo. The residue was partitioned between water and EtOAc. The aqueous layer was extracted with an additional portion of EtOAc. The combined organic extracts were washed with HCl (1 M), brine, NaHCO3 (sat. aq. sol.) and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by filtering it through a silica gel plug (EtOAc-hexanes 50:50) to afford 0.201 g (89%) of methyl 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylate.

reactant | 5-methoxycarbonyl-2-phenyl-2H-1,2,3-triazole-4-carboxylic acid | 0.82 mmol, 0.203 g | COC(=O)C=1C(=NN(N1)C1=CC=CC=C1)C(=O)O | C11H9N3O4
reactant | carbonyldiimidazole | 0.90 mmol, 0.146 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | 4.10 mmol, 2.0 M, 2.05 mL | CNC | C2H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl 5-(N,N-dimethylcarbamoyl)-2-phenyl-2H-1,2,3-triazole-4-carboxylate | 0.201 g, 89% | CN(C(=O)C=1C(=NN(N1)C1=CC=CC=C1)C(=O)OC)C | C13H14N4O3
